reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C:3]([C:4]([C:5][O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],29.0239192829791
[C-:5]#[O+:6].[H:9][H:10].[O:1]=[C:2]([C:3](=[O:4])[H:8])[H:7]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],35.947287446408296
[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([O+:3]=[C:2]=[C:4]=[N-:5])([H:6])([H:7])[H:8],109.620143039328
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O+:1](=[C-:2][C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],100.18285541834601
[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],74.58756479894495
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([O+:7]=[C-:6][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],114.861179894754
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]#[N:6])[H:14])([H:7])([H:8])[H:9].[H:10][H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],73.44870055919439
[C:1](/[C:4](=[C:2](/[C:3]([H:12])([H:13])[H:14])[H:11])[C+:5]=[C:6]([O-:7])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],35.27424097699081
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:16],86.57094292066402
[C:1]([C:2](=[C:3]=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7],66.08060883682336
[C:1]([C:2]([C:3]#[N:4])=[C:5]=[N:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],68.0665074883222
[N:1](=[C:2]([H:8])[H:10])[H:7].[O:3]=[C:4]([C:5](=[O:6])[H:11])[H:9]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],73.69385896451462
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:19].[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])=[C:7]([H:20])[H:21].[O:2]=[C:3]([H:11])[H:12],97.428379681986
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C:2]2([O:3]1)[C:4](=[O:5])[C:6]([H:10])([H:11])[O:7]2,106.178807458434
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9].[H:15][H:16],87.06758538178879
[C:1](=[C:2])([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],16.766352226529797
[C-:4]#[O+:5].[N:1]([C:2][O:3][H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7],19.701912258114206
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[C:4]=[C:5]([H:13])[H:14])[H:12])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],83.94572029628559
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]1[C@@:2]2([H:8])[C@@:3]3([H:9])[C:4]([H:10])([H:11])[N:5]3[C@:6]1([H:12])[O:7]2,67.42422286893371
[C-:6]#[O+:7].[C:2](=[C:3]=[C:4]=[C:5]([H:11])[H:12])([H:9])[H:10].[O:1]([H:8])[H:13]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],54.795212368836395
[C:1]1([H:7])([H:9])[C@:2]([C:3]([H:11])([H:12])[H:13])([H:10])[N:4]1[H:14].[C:5](=[O:6])([H:8])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],69.12631972429799
[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:14])([H:15])/[C:5]1=[N:6]/[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],74.32321896826952
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c-:5][n:6]([H:14])[c+:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],83.73387829814399
[O:1]=[C:2]([C:3](=[C-:4])[N+:6]#[C:5])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],19.206874011378204
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:5](/[C:3]([N:4]([H:10])[H:11])=[O:6])[H:12])([H:7])([H:8])[H:9],79.2819693122341
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[N:5]([H:12])[C:6]1([H:8])[H:13],56.864227017782795
